US04652563
A mixture of 6-[4-(3-benzylaminopropionamido)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone (1.46 g, 0.004 mol), 1-[4-[2-(cyclopropylmethoxy)ethyl]phenoxy]-2,3-epoxypropane (2.0 g, 0.008 mol) (British Pat. No. 1,515,978) and n-propanol was stirred and heated under reflux for 22 hours. Evaporation of the solvent under reduced pressure gave an oily residue which was purified by elution from a silica column with chloroform/methanol mixtures to give 6-[4-[3-[2-hydroxy-3-[4-(2-(cyclopropylmethoxy)ethyl]phenoxy]-N-benzylpropylamino]propionamido]phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone as a foam, 1.3 g, (38%); δ(CHCl3) 0.18 and 0.53 (2m, 4H, cyclopropylmethylene protons), 1.23 (d, 3H, dihydropyridazinone 5-methyl) ppm.

reactant | 6-[4-(3-benzylaminopropionamido)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 0.004 mol, 1.46 g | C(C1=CC=CC=C1)NCCC(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C21H24N4O2
reactant | 1-[4-[2-(cyclopropylmethoxy)ethyl]phenoxy]-2,3-epoxypropane | 0.008 mol, 2.0 g | C1(CC1)COCCC1=CC=C(OCC2CO2)C=C1 | C15H20O3
solvent | n-propanol | C(CC)O | C3H8O
product | 6-[4-[3-[2-hydroxy-3-[4-(2-(cyclopropylmethoxy)ethyl]phenoxy]-N-benzylpropylamino]propionamido]phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | OC(CNCCC(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C)C(OC1=CC=C(C=C1)CCOCC1CC1)CC1=CC=CC=C1 | C36H44N4O5
